US06569860B2
To a solution of 2-(trimethylsilyl)ethyl 3-(N′-benzylidene-N-phenylhydrazino)-2-cyanoacrylate (2.69 g, 6.87 mmol) in 10 mL ethanol was added, 2.1 mL conc. HCl solution and the mixture was heated under Nitrogen at reflux for 2 hrs. The ethanol was evaporated under reduced pressure. The residue was taken up in ethyl acetate and slowly treated with 30 mL cold 1N NaOH solution. The ethyl acetate layer was separated, washed with sat. brine, and dried over MgSO4. Evaporation of the solvent afforded 1.68 g of crude material, which was purified by chromatography to afford 976 mg (47%) of 2-(trimethylsilyl)ethyl 3-amino-1-phenylpyrazol-4-carboxylate as a pale yellow solid.

reactant | 2-(trimethylsilyl)ethyl 3-(N′-benzylidene-N-phenylhydrazino)-2-cyanoacrylate | 6.87 mmol, 2.69 g | C(C1=CC=CC=C1)=NN(C1=CC=CC=C1)C=C(C(=O)OCC[Si](C)(C)C)C#N | C22H25N3O2Si
reactant | HCl | 2.1 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(trimethylsilyl)ethyl 3-amino-1-phenylpyrazol-4-carboxylate | 976 mg, 47% | NC1=NN(C=C1C(=O)OCC[Si](C)(C)C)C1=CC=CC=C1 | C15H21N3O2Si
